US05216167
(z) 2-Ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}aminocarbonylmethyl]-toluene
Prepared from 1-(2-piperidino-phenyl)-1-butylamine and 3-ethoxy-4-methyl-phenylacetic acid.

reactant | 1-(2-piperidino-phenyl)-1-butylamine | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)N | C15H24N2
reactant | 3-ethoxy-4-methyl-phenylacetic acid | C(C)OC=1C=C(C=CC1C)CC(=O)O | C11H14O3
product | 2-Ethoxy-4-[N-{1-(2-piperidino-phenyl)-1-butyl}aminocarbonylmethyl]-toluene | C(C)OC1=C(C=CC(=C1)CC(=O)NC(CCC)C1=C(C=CC=C1)N1CCCCC1)C | C26H36N2O2
